US07576094B2
Cyclobutylideneacetic acid (3.8 g), 5,6-dimethyl-4-methoxyaniline (5 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDC) (4.7 g), 1,3-dicyclohexylcarbodiimide (DCC) (2.4 g), 4-dimethylaminopyridine (DMAP) (805 mg) and triethylamine (TEA) (7.3 g) were dissolved in dichloromethane (80 mL). The mixture was stirred at room temperature overnight, concentrated, and the residue dissolved in ethyl acetate. The organic phase was washed with water (3×20 mL) and 1M HCl (3×20 mL), and a white solid was filtered out. The organic solution was then dried out by evaporation giving 2-cyclobutylidene-N-(4-methoxy-2,3-dimethylphenyl)acetamide as a brown solid (5.3 g). The product was used in the next step without further purification. MS: (m/z)=246 (100, M+H+).

reactant | Cyclobutylideneacetic acid | 3.8 g | C1(CCC1)=CC(=O)O | C6H8O2
reactant | 5,6-dimethyl-4-methoxyaniline | 5 g | CC=1C(=CC=C(N)C1C)OC | C9H13NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 4.7 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1,3-dicyclohexylcarbodiimide | 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 805 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | triethylamine | 7.3 g | C(C)N(CC)CC | C6H15N
product | 2-cyclobutylidene-N-(4-methoxy-2,3-dimethylphenyl)acetamide | 5.3 g | C1(CCC1)=CC(=O)NC1=C(C(=C(C=C1)OC)C)C | C15H19NO2
